US04810283
12.0 g (0.03 mole) of 5-bromo-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-nitro-pyrazole and 10 g (0.13 mole) of 2-methoxyethylamine are stirred in 50 ml of dioxane at 50° C. to 60° C. for 12 hours. For working up, the cooled reaction mixture is poured into water and extracted several times with chloroform. The combined organic phases are washed with water, dried over sodium sulphate and concentrated in vacuo and the residue is crystallized with ligroin. 6.6 g (55% of theory) of 1-(2,6-dichloro-4-trifluoromethyl-phenyl)-5-(2-methoxyethylamino)-4-nitro-pyrazole of melting point 85° C.-90° C. are obtained.

reactant | 5-bromo-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-nitro-pyrazole | 0.03 mole, 12.0 g | BrC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)[N+](=O)[O-] | C10H3BrCl2F3N3O2
reactant | 2-methoxyethylamine | 0.13 mole, 10 g | COCCN | C3H9NO
reactant | water | O | H2O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-(2,6-dichloro-4-trifluoromethyl-phenyl)-5-(2-methoxyethylamino)-4-nitro-pyrazole | 6.6 g, 55% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=C1NCCOC)[N+](=O)[O-] | C13H11Cl2F3N4O3
